US05650428
The procedure described in Example 1 was repeated, except that dihydropyran (2.9 ml) and methyl 5-aminopentanate hydrochloride (2.158 g) were successively reacted with (RS)-2-(4-chlorobenzenesulfonylamino)-3-hydroxypropanoic acid (3 g) to obtain (RS)-2-(4-chlorobenzenesulfonylamino)-N-(4-methoxycarbonylbutyl)-3-(tetrahydropyran-2-yloxy)propanamide (2.059 g).

reactant | dihydropyran | 2.9 ml | O1CCCC=C1 | C5H8O
reactant | methyl 5-aminopentanate hydrochloride | 2.158 g | Cl.NCCCCC(=O)OC
reactant | (RS)-2-(4-chlorobenzenesulfonylamino)-3-hydroxypropanoic acid | 3 g | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)O)CO | C9H10ClNO5S
product | (RS)-2-(4-chlorobenzenesulfonylamino)-N-(4-methoxycarbonylbutyl)-3-(tetrahydropyran-2-yloxy)propanamide | 2.059 g | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)NCCCCC(=O)OC)COC1OCCCC1 | C20H29ClN2O7S
